US08217064B2
Ethyl 2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)acetate (0.5 g, mmol) was dissolved in 10 mL anhydrous DMF and NaH (60% wt. in oil, 0.13 g, mmol) was added at 0° C. The reaction mixture was stirred for 0.5 h at 25° C. and 1,4-dibromobutane (0.24 g, mmol) was added drop wise at 0° C. The reaction mixture was stirred at 0° C. for 1 h and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give ethyl 1-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentane carboxylate (380 mg) as a colorless oil.

reactant | Ethyl 2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)acetate | 0.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)CC(=O)OCC)OCC(F)(F)F | C12H12F3NO5
reactant | NaH | 0.13 g | [H-].[Na+]
reactant | 1,4-dibromobutane | 0.24 g | BrCCCCBr | C4H8Br2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 1-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)cyclopentane carboxylate | 380 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C16H18F3NO5
